US07902367B2
Step 35b) Methyl 2-[3-[(4′-chlorobiphenyl-4-yl)carbonylamino]piperidin-1-yl]benzoate
Methyl 2-[3-(tert-butoxycarbonylamino)piperidin-1-yl]benzoate (2.34 g, 7.00 mmol) was dissolved in anhydrous dichloromethane (50 mL). While this solution was ice-chilled and stirred, trifluoroacetic acid (5.2 mL, 6.82 mmol) was added and the mixture was stirred for 3 hours. Subsequently, the reaction mixture was concentrated and a 10% hydrochloric acid/methanol mixture (50 mL) was added to the residue. The mixture was stirred at room temperature for 1 hour and was concentrated. The same process was repeated 3 times and the resulting solid were washed with ethyl acetate. This gave 1.33 g of a colorless powder. This product (113 mg) was dissolved in N,N-dimethylformamide (4 mL). While the solution was chilled to 0° C. and stirred, 4′-chlorobiphenyl-4-carboxylic acid (103 mg, 0.443 mmol), 1-hydroxybenzotriazole monohydrate (63.8 mg, 0.417 mmol), N-methylmorpholine (160 μL, 1.46 mmol) and 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride (78.0 mg, 0.407 mmol) were added. The mixture was stirred at 0° C. for 20 min and at room temperature for the following 6 hours. Subsequently, the reaction mixture was diluted with ethyl acetate. The organic layer washed sequentially with 5% aqueous citric acid, a saturated aqueous sodium bicarbonate solution, water and brine. The washed product was dried over anhydrous sodium sulfate and the solvent was concentrated. Purification of the resulting residue by silica gel column chromatography (hexane:ethyl acetate=3:1) gave 142 mg of the desired compound as colorless crystals.

reactant | Methyl 2-[3-(tert-butoxycarbonylamino)piperidin-1-yl]benzoate | 7.00 mmol, 2.34 g | C(C)(C)(C)OC(=O)NC1CN(CCC1)C1=C(C(=O)OC)C=CC=C1 | C18H26N2O4
reactant | trifluoroacetic acid | 6.82 mmol, 5.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4′-chlorobiphenyl-4-carboxylic acid | 0.443 mmol, 103 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9ClO2
reactant | 1-hydroxybenzotriazole monohydrate | 0.417 mmol, 63.8 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 1.46 mmol, 160 μL | CN1CCOCC1 | C5H11NO
reactant | 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride | 0.407 mmol, 78.0 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-[3-[(4′-chlorobiphenyl-4-yl)carbonylamino]piperidin-1-yl]benzoate | 142 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)NC1CN(CCC1)C1=C(C(=O)OC)C=CC=C1 | C26H25ClN2O3
